US05698554
44 ml of a 25% hydrogen bromide-acetic acid solution was added to 44 ml of an acetic acid solution containing 2.20 g of 6-[4-(4-aminobutyl)phenyl]-4,5-dihydro-4,5-dimethylpyridazin-3(2H)-one, and the mixture was stirred at room temperature for 5 minutes. Then, 0.75 ml of dimethylsulfoxide was added to the mixture, and the resulting mixture was stirred for 6 hours. The solvent was removed, and the residue was dissolved in 150 ml of water. The solution was made alkaline with ammonia and extracted with chloroform. After the chloroform layer was washed with water and dried, the solvent was removed. The residue was purified by silica gel column chromatography (eluent:chloroform-methanol-28 % aqueous ammonia (10:1:0.1)) to obtain 1.52 g of 6-[4-(4-aminobutyl)phenyl]-4,5-dimethylpyridazin-3(2H)-one.

reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
reactant | acetic acid | 44 ml | C(C)(=O)O | C2H4O2
reactant | 6-[4-(4-aminobutyl)phenyl]-4,5-dihydro-4,5-dimethylpyridazin-3(2H)-one | 2.20 g | NCCCCC1=CC=C(C=C1)C=1C(C(C(NN1)=O)C)C | C16H23N3O
solvent | dimethylsulfoxide | 0.75 ml | CS(=O)C | C2H6OS
product | 6-[4-(4-aminobutyl)phenyl]-4,5-dimethylpyridazin-3(2H)-one | 1.52 g | NCCCCC1=CC=C(C=C1)C=1C(=C(C(NN1)=O)C)C | C16H21N3O
